US06800627B1
Ethyl 6-chloro-5-methylindole-2-carboxylate
Iron powder (3.34 g, 60 mmol) was added in 1 portion to a stirred solution of ethyl 4-chloro-3-methyl-2-nitrophenylacetate, potassium salt (6.5 g, 20 mmol) in acetic acid (60 mL) at room temperature under Ar. The reaction was then heated to 90° C. and stirred for 1 h. After allowing to cool to room temperature the mixture was cautiously poured into saturated aqueous sodium hydrogen carbonate solution (200 mL) containing solid sodium hydrogen carbonate (10 g) and ethyl acetate (200 mL). The mixture was filtered through celite and the aqueous and organic layers were separated. The aqueous layer was extracted with ethyl acetate (2×200 mL) and the combined organic extracts were washed with brine (1×200 mL), dried (magnesium sulfate), filtered and the solvent removed under vacuum to leave a crude solid. The solid was adsorbed onto sodium sulfate (10 g) and purified by flash column chromatography [SiO2; ethyl acetate-heptane (1:5)→(1:0)] to give the product as yellow solid (1.6 g, 14% over 2 steps). IR νmax (Nujol)/cm−1 3319,2925, 2855, 1683, 1623, 1570, 1530, 1555, 1418, 1368, 1339, 1330, 1280, 1241, 1158, 1120, 1107, 1021, 996, 976, 885, 855, 828, 773,736,664, 580, 574, 514 and 489; NMR δH (400 MHz; CDCl3) 8.82 (1H, br. s), 7.52 (1H, s), 7.44 (1H, s), 7.12 (1H, m), 4.39 (2H, q, J 7.1 Hz), 2.45 (3H, s), 1.40 (3H t, J 7.1 Hz).

reactant | ethyl 4-chloro-3-methyl-2-nitrophenylacetate | ClC1=C(C(=C(C=C1)CC(=O)OCC)[N+](=O)[O-])C | C11H12ClNO4
reactant | potassium | 20 mmol, 6.5 g | [K] | K
reactant | sodium hydrogen carbonate | 200 mL | C(O)([O-])=O.[Na+]
reactant | sodium hydrogen carbonate | 10 g | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 60 mmol, 3.34 g | [Fe] | Fe
product | Ethyl 6-chloro-5-methylindole-2-carboxylate | 1.6 g, 14% | ClC1=C(C=C2C=C(NC2=C1)C(=O)OCC)C | C12H12ClNO2
